US09289510B2
Synthesis of HPMA Copolymer Conjugate Containing Two Drugs, DTX and Gem, P-DTX-Gem (Scheme 37)
The copolymer alkyne-P(HPMA-DTX-Gem)-alkyne and N3-Val-Cit-N3 or N3-Phe-Lys-N3 will be dissolved in degassed solution of L-ascorbic acid (0.5×) in DMF. Under nitrogen atmosphere, CuBr (0.5×) solution in DMF will be added. The reaction mixture will be kept stirring for 48 h at room temperature. The polymer will be precipitated into acetone and purified by dialysis against 10 mM EDTA solution, then in water to remove copper salts, and then freeze-dried.

reactant | N3-Val-Cit-N3 | N([C@@H](C(C)C)C(=O)N[C@@H](CCCNC(=O)N)C(=O)N=[N+]=[N-])N=[N+]=[N-] | C11H20N10O3
reactant | N3-Phe-Lys-N3 | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCCCN)C(=O)N=[N+]=[N-])N=[N+]=[N-] | C15H21N9O2
reactant | L-ascorbic acid | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
solvent | DMF | CN(C)C=O | C3H7NO
product | HPMA | CC(COC(=O)C(=C)C)O | C7H12O3
